datasets/10k_Mayr_OG.csv
SMILES Labelled
"CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](C3=CC=CC=C3)[C:24](=[O:25])[C:33](C3=CC=CC=C3)=[CH:32]2)[CH:46]=[CH:45]1.[C:10](=[C:11]=[N-:12])([C:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1)[C:81]#[N:81]>>CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([C:10]([C:11]#[N:12])([C:61]2=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]2)[C:81]#[N:81])[C:21]2=[CH:22][C:23](C3=CC=CC=C3)=[C:24]([O-:25])[C:33](C3=CC=CC=C3)=[CH:32]2)[CH:46]=[CH:45]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"C1=CC=C([N:21]=[C:20]=[N:31]C2=CC=CC=C2)C=C1.C[C:72]1=[CH:71][N-:10][CH:61]=[N:62]1>>C[C:72]1=[CH:71][N:10]([C:20]([N-:21]C2=CC=CC=C2)=[N:31]C2=CC=CC=C2)[CH:61]=[N:62]1 10=20;20,21=21"
"C[N:12]1[N:11]=[N:10][C:61]2=[C:62]1C=CC=C2.Cl[B-:33](Cl)(Cl)[O+:21]=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]1>>C[N+:12]1=[N:11][N:10]([CH:20]([O:21][B-:33](Cl)(Cl)Cl)[C:41]2=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]2)[C:61]2=[C:62]1C=CC=C2 10,11=10,20;12=11,12;20,21=21"
"C1C[N:62]2CC[NH:12][C:11]2=[N:10]1.O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]2=[N:42]O[N:35]=[C:34]12>>O=[N+]([O-])[C:33]1=[CH:32][C:21](=[N+:22]([O-])[O-:23])[CH:20]([N:10]2CC[N:62]3CC[NH+:12]=[C:11]23)[C:41]2=[N:42]O[N:35]=[C:34]12 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC1=CC(C)=C([N+:63]2=[C:62](/[C:11](=[C:10](\C)C3=CC=CC=C3)[O-:12])[N:66](C3=C(C)C=C(C)C=C3C)[CH:65]=[CH:64]2)C(C)=C1.CO[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:32]=[C:33](OC)[C:24]1=[O:25]>>CO[C:23]1=[C:24]([O-:25])[C:33](OC)=[CH:32][C:21]([CH:20]([C:10](C)(C2=CC=CC=C2)[C:11](=[O:12])[C:62]2=[N+:63](C3=C(C)C=C(C)C=C3C)[CH:64]=[CH:65][N:66]2C2=C(C)C=C(C)C=C2C)[C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)=[CH:22]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](\C[N+]2=CC=C(N(C)C)C=C2)[C:22](C)=[O:23])[CH:43]=[CH:44]1.C[Si:63]1(C)CCCC[CH:11]([H:10])[CH2:62]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:21](C[N+]2=CC=C(N(C)C)C=C2)=[C:22](C)[O-:23])[CH:43]=[CH:44]1.C[Si:63]1(C)CCCC[CH+:11][CH2:62]1 10,11=10,20;20,21=21,22;22,23=23"
"C1C[O:33][C:22](=[O:23])[C:21]1=[CH2:20].C[Si](C)(C)O[N:12](O[Si](C)(C)C)[C:11](=[CH2:10])[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1>>C[Si](C)(C)O[N+:12](O[Si](C)(C)C)=[C:11]([CH2:10][CH2:20][C:21]1=[C:22]([O-:23])[O:33]CC1)[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[N+:21](C)=[CH2:20].C[Si:63](C)(C1=CC=CC=C1)[CH2:62][Si:11]([H:10])([CH2:72][Si:73](C)(C)C1=CC=CC=C1)[CH2:82][Si:83](C)(C)C1=CC=CC=C1>>C[N:21](C)[CH2:20][H:10].C[Si:63](C)(C1=CC=CC=C1)[CH2:62][Si+:11]([CH2:72][Si:73](C)(C)C1=CC=CC=C1)[CH2:82][Si:83](C)(C)C1=CC=CC=C1 10,11=10,20;20,21=21"
"N#C[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]12.[H][C:11]1([H:10])[CH:12]=[CH:13][N:14](CC2=CC=CC=C2)[CH:63]=[C:62]1C(N)=O>>N#C[C:33]1=[CH:32][C:21](=[N+:22]([O-])[O-:23])[CH:20]([H:10])[C:41]2=[N+:42]([O-])O[N:35]=[C:34]12.[H][C:11]1=[CH:12][CH:13]=[N+:14](CC2=CC=CC=C2)[CH:63]=[C:62]1C(N)=O 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"CO[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1.C[C:11](=[CH2:10])[Si:62](C)(C)[Si:63](C)(C)C>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH2:10][C+:11](C)[Si:62](C)(C)[Si:63](C)(C)C)[CH:21]=[N+:22]([O-:23])[O-:33])[CH:46]=[CH:45]1 10,11=10,20;20,21=21,22;22,23=23"
"C[C:62]1=[CH:61][N:10]=[CH:11][NH:12]1.F[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1>>C[C:62]1=[CH:61][N:10]([C:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)[CH:11]=[NH+:12]1 10,11=10,20;12=11,12"
"C1C[N:10]=[C:62]2[N:63](C1)CC[NH:73]2.Cl[C:21]1([Cl:20])[C:22](=[O:23])[C:35]2=[C:34](C=CC=N2)[C:33](Cl)=[CH:32]1>>C1C[N+:10]([Cl:20])=[C:62]2[N:63](C1)CC[NH:73]2.Cl[C:21]1=[C:22]([O-:23])[C:35]2=[C:34](C=CC=N2)[C:33](Cl)=[CH:32]1 10=20;20,21=21,22;22,23=23"
C1C[S:31][CH+:20][S:41]C1.CCC[NH:10]CCC>>CCC[NH+:10](CCC)[CH:20]1[S:31]CCC[S:41]1 10=20
"C1CC[C:20](=[O:21])CC1.C[N:62]1[CH:61]=[N:10][CH:71]=[CH:72]1>>C[N:62]1[CH:61]=[N+:10]([C:20]2([O-:21])CCCCC2)[CH:71]=[CH:72]1 10=20;20,21=21"
Br[C:64]1=[CH:63][CH:62]=[C:61]([S-:10])[CH:72]=[CH:73]1.F[C:43]1=[CH:44][CH:45]=[CH:46][C:41]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:42]1>>F[C:43]1=[CH:44][CH:45]=[CH:46][C:41]([C:20]([S:10][C:61]2=[CH:62][CH:63]=[C:64](Br)[CH:73]=[CH:72]2)([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:42]1 10=20
